* source SHEPHERD_RECORDER_OPDRAIN
X_U1         OPIN N14735 N14685 N14776 OPDRAIN OPA189 
I_I1         0 SENSE DC 20m AC 0 
C_C1         N14735 SENSE  100n  TC=0,0 
R_R1         N14735 SENSE  1k TC=0,0 
R_R2         OPDRAIN N14674  10R TC=0,0 
D_D1         SENSE N14674 Dbreak 
V_V1         N14776 0 -6Vdc
V_V2         N14685 0 10Vdc
V_V3         OPIN 0 DC 2Vdc 
+PULSE 5 0 1ms 1us 1us 2 3
